US08648068B2
4-[4-Fluoro-2-((R)-1-[1,2,4]oxadiazol-3-ylmethyl-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
The following compound was prepared analogously to example 72 from 4-[4-fluoro-2-((R)-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide and trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester.

reactant | 4-[4-fluoro-2-((R)-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@H]2CNCCC2 | C19H20FN5O2S
reactant | trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
product | 4-[4-Fluoro-2-((R)-1-[1,2,4]oxadiazol-3-ylmethyl-piperidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@H]2CN(CCC2)CC2=NOC=N2 | C22H22FN7O3S
